US08022063B2
4-Bromo-2-[3-(4-chlorobenzyl)-2,4-dioxoimidazolidin-1-ylmethyl]phenoxyacetic acid.
Prepared from 4-bromo-2-[(ethoxycarbonylmethylamino)methyl]phenoxyacetic acid ethyl ester (235 mg, 0.63 mmol) and 4-chlorobenzylisocyanate (166 μL, 1.26 mmol) according to GP12 (yield: 183.4 mg, 62%): LC/MS (an10p8): Rt 2.3 min, m/z 465 [M−H]−; 1H NMR (DMSO-d6): δ 4.05 (s, 2H), 4.48 (s, 2H), 4.55 (s, 2H), 4.73 (s, 2H), 6.92 (d, J=8.3 Hz, 1H), 7.25-7.45 (m, 6H), 13.11 (br. s, 1H).

reactant | 4-bromo-2-[(ethoxycarbonylmethylamino)methyl]phenoxyacetic acid ethyl ester | 0.63 mmol, 235 mg | C(C)OC(COC1=C(C=C(C=C1)Br)CNCC(=O)OCC)=O | C15H20BrNO5
reactant | 4-chlorobenzylisocyanate | 1.26 mmol, 166 μL | ClC1=CC=C(CN=C=O)C=C1 | C8H6ClNO
product | 4-Bromo-2-[3-(4-chlorobenzyl)-2,4-dioxoimidazolidin-1-ylmethyl]phenoxyacetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)CN1C(N(C(C1)=O)CC1=CC=C(C=C1)Cl)=O | C19H16BrClN2O5
